US05281571
To a solution of 1.9 g (5.0 mmole) of 2-(2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenoxy)-propanoic acid in 50 mL methylene chloride was added 1.3 mL (15.0 mmole) oxalyl chloride over 5 minutes, causing the evolution of gas. When this evolution ceased, one drop of DMF was added and the solution stirred until the gas evolution ceased. The solution was stripped to dryness in vacuo. The acid chloride was dissolved in 40 mL of 3-methyl-1-butanol and heated to reflux for one hour. The reaction mixture was cooled, diluted with 100 mL cold water and extracted with ethyl acetate. The ethyl acetate was washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified chromatographically using 25% ethyl acetate in hexane as the eluent to give 2.17 g (95%) of 2-(2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenoxy)-propanoic acid, 3-methylbutyl ester as a white solid; mp 128° C.

reactant | 2-(2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenoxy)-propanoic acid | 5.0 mmole, 1.9 g | ClC1=C(OC(C(=O)O)C)C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C | C14H10Cl2F4N2O3
reactant | oxalyl chloride | 15.0 mmole, 1.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-methyl-1-butanol | 40 mL | CC(CCO)C | C5H12O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-(2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenoxy)-propanoic acid, 3-methylbutyl ester | 2.17 g, 95% | ClC1=C(OC(C(=O)OCCC(C)C)C)C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C | C19H20Cl2F4N2O3
